US07745438B2
Add triethyl amine (0.025 mL) and acetic anhydride (0.013 mL) to a solution of 5-[2-amino-3-(3-fluoro-5-propoxy-phenyl)-1-hydroxy-propyl]-2-(3-fluoro-2-fluoromethyl-2-methyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester (67 mg) in dichloromethane (2 mL). Stir at room temperature for 2 hours. Concentrate under reduced pressure and subject to silica gel chromatography, eluting with a linear gradient from hexanes to ethyl acetate to afford 5-[2-acetylamino-3-(3-fluoro-5-propoxy-phenyl)-1-hydroxy-propyl]-2-(3-fluoro-2-fluoromethyl-2-methyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester (49 mg, 68%)

reactant | triethyl amine | 0.025 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.013 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-[2-amino-3-(3-fluoro-5-propoxy-phenyl)-1-hydroxy-propyl]-2-(3-fluoro-2-fluoromethyl-2-methyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester | 67 mg | C(C)(C)(C)OC(=O)N1C(C(OCC1C(C(CC1=CC(=CC(=C1)OCCC)F)N)O)OCC(CF)(C)CF)C | C27H43F3N2O6
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 5-[2-acetylamino-3-(3-fluoro-5-propoxy-phenyl)-1-hydroxy-propyl]-2-(3-fluoro-2-fluoromethyl-2-methyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester | 49 mg, 68% | C(C)(C)(C)OC(=O)N1C(C(OCC1C(C(CC1=CC(=CC(=C1)OCCC)F)NC(C)=O)O)OCC(CF)(C)CF)C | C29H45F3N2O7
